Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUQ pain
 
Major Surgical or Invasive Procedure:
Laparoscopic cholecystectomy

 
History of Present Illness:
Mrs. ___ is a ___ year old lady with a PMH pertinent for
obesity, fertility treatments and cholelithiasis diagnosed ___
years ago who presents following an approximately 8 hour episode
of sharp, ___ non-radiating epigastric pain onset after dinner
last night. The pain mostly resolved spontaneously around 0330
this morning in the ED. She has had pain like this 4 or 5 times
since her diagnoses of cholelithiasis but never this severe. She
states she usually avoids large amounts of foods like hamburgers
and hot dogs to prevent the episodes, but family have been
visiting and she hasn't been watching her diet. She denies
nausea, SOB, fever, chills, sweats, bowel or urinary symptoms
associated with the pain. On exam she is afebrile with a soft,
non-distended abdomen minutely tender to the epigastrium. Her 
WBC
is 10.9 and Tbili 0.2. A RUQ US demonstrated cholelithiasis
including a stone impacted at the neck of the gallbladder
 
Past Medical History:
PNC
- ___ ___ by 
- O+/ab neg/RI/HBsAg neg/RPRNR/HIV neg/GBS + by urine
- Varicella nonimmune
- Impaired glucose tolerance prepregnancy- started on insulin 
due
to elevated fasting BS, GLT/GTT not done
- low risk NIPT
- normal FFS, fetal echo limited but normal
- Baseline PEC labs ___- negative
- EFW ___ 68% 

PAST MEDICAL HISTORY
- Bifrontal headaches going back to childhood 
- Right hand carpal tunnel (diagnosed ___ years ago, s/p cortisone
shots, current symptoms are similar)
- Plantar fasciitis
- Obesity
- Hypothyroid

 
Social History:
___
Family History:
FAMILY HISTORY
- Paternal aunt with multiple sclerosis
- Diabetes in uncles, grandparents
- ___ healthy (mother w HTN only, father HLD only)
- ___ (1 brother, 1 sister) healthy

 
Physical ___:
ADMISSION PHYSICAL EXAMINATION:
VSS:  98.5  58  133/73  18  99%RA
GEN: No acute distress, well-nourished, appropriately groomed.
NEURO: Alert and oriented to time, person and place. CN II-XII
grossly intact. Sensation to pressure and fine touch intact and
symmetric bilaterally
HEENT: Pupils equal, round, reactive to light and accommodating;
sclerae anicteric. No nystagmus or ptosis. Oropharynx moist and
pink. Nose and ears atraumatic
CV: Regular rate and rhythm , no murmurs, rubs or gallops, 2+
peripheral pulses symmetrically  
RESP: Clear to auscultation bilaterally, no wheezes, rales or
crackles  
GI: Abdomen soft, non-tender and non-distended. No
hepatosplenomegaly. Abdomen dull to percussion. Bowel sounds
normoactive. Rectal exam deferred
LYPMH: No cervical, axillary or inguinal lymphadenopathy
GU: Deferred
MSK: Extremities warm and well perfused. No clubbing, cyanosis 
or
edema. Strength ___

DISCHARGE PHYSICAL EXAMINATION:
Gen - NAD
CV - RRR
Resp - nonlabored breathing, no respiratory distress
Abd - soft, mildly distended, mild ttp, port sites c/d/i
 
Pertinent Results:
138 101 14
----------------< 103
4.7 26 0.7

ALT: 18  AST: 17  AP: 79  Tbili: 0.2  Alb: 4.9  Lip: 36  

10.9  > 12.4 / 39.2 < 258

___: 10.1  PTT: 38.7  INR: 0.9 

RUQ US ___:
Cholelithiasis, with an impacted stone in the gallbladder neck.
No sonographic evidence of acute cholecystitis.
 
Brief Hospital Course:
___ with symptomatic cholelithiasis and a presently impacted 
gallstone at the gallbladder neck. Does not show signs of 
cholecystitis, cholangitis or choledocolithiasis at this time. 
She was consented in the ED and underwent a laparoscopic 
cholecystectomy which had minimal blood loss. On POD1 she was 
transitioned to a reg diet and PO pain meds which she tolerated 
well. Throughout her hospitalization she remained afebrile and 
hemodynamically stable. She was discharged home with follow up 
with the ___ clinic.
 
Medications on Admission:
cetirizine, escitalopram
 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth two times a day as 
needed Disp #*10 Capsule Refills:*0 
2.  Cetirizine 10 mg PO DAILY allergies  
3.  Escitalopram Oxalate 20 mg PO DAILY depression  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
acute cholecystitis and underwent a laparoscopic 
cholecystectomy. Your recovery at the hospital has gone well and 
today you will be going home.

Please read over this material carefully. 

If you have strips of tape [Steri-strips] on the incisions: 
remove the bandage but leave the strips of tape directly on the 
skin for a week; no other dressing is necessary.

If you have sutures or staples, you may wish to keep a dressing 
on to protect the incision. Change the dressing and inspect your 
wound every day and as needed.

Shower or bathe, but do not sit in a bathtub or immerse the 
operative incision for at least until 72 hours after surgery. 
You may use a mild soap to gently cleanse your incision and 
carefully pat dry.

Medications:
It is normal to have pain at your incision sites. You will 
receive a prescription for pain medicine before you leave the 
hospital. You may need to take this pain medication regularly, 
as directed, for the first few days after you leave the 
hospital. This should help control your pain, allow you to be 
more active and speed up your recovery.

Acetaminophen [Tylenol] or ibuprofen [Motrin] ___ tablets every 
___ hours for mild or moderate discomfort.

Prescribed narcotic medications [oxycodone, hydromorphone] for 
severe discomfort. Do not drink alcoholic beverages while taking 
these narcotics.

Wounds:
A few spots of blood on the bandage is common. Call your surgeon 
if there are other signs of bleeding.
A moderate amount of black and blue skin discoloration around 
the wounds is common.

A firm, tender swelling will develop beneath the incision(s). 
These will disappear after several weeks.
Support the lower abdomen with a small pillow when coughing or 
sneezing.

Diet:
Try to drink several glasses of juice or water per day.

You may eat a normal diet as tolerated.

Occasionally, patients develop constipation after surgery due to 
inactivity and narcotic pain medicine. Constipation may be 
relieved by increasing fluid intake and by taking an 
over-the-counter and prescribed stool softener or mild laxative 
(milk of magnesia). Bowel function should return to its previous 
pattern within a week. Stop taking these medications if 
experiencing loose stools.

Activities at Home:
In the first week after surgery, gradually increase your 
activity, taking rest periods as needed. Get adequate sleep at 
night.
Light aerobic exercise (walking, biking, swimming, golfing, 
jogging) is encouraged within the limits of your pain tolerance.
Avoid vigorous physical activity (sprinting, sit-ups, or lifting 
more than ___ lbs) for several weeks after surgery.

Driving a car:
You may resume driving when you no longer take narcotic pain 
medication.

Sexual Activity:
Gradually return to your previous level of activity. Certain 
positions may be more comfortable until the wound heals.

Work:
___
Notify your physician if any of these occur:
•body temperature greater than 101°F
•drainage or fluid from incision
•increased wound tenderness or soreness
•significant redness or swelling at the incision site
•persistent nausea, vomiting, diarrhea or constipation
•swelling, redness, or persistent pain in the legs
•difficulty urinating

Follow-up care:
Call the Acute Care Surgery Clinic at ___ to schedule 
an appointment for ___ weeks after the date of surgery.

Each day you should continue to improve. Be sure to report any 
new pain or other issues of concern promptly to your physician. 
Assume that you will feel better each day and remember that any 
adverse symptom may be indicative that you are developing a 
serious post-operative complication.

 
Followup Instructions:
___